US04797129
Preparation of 2-(γ-hydroxypropyl)amino-6-(γ-hydroxypropyl)aminonitrobenzene
340 mg of palladium at a concentration of 10% on calcium carbonate are added to 0.017 mole (5.2 g) of 4- chloro-2-(γ-hydroxypropyl)amino-6-(γ-hydroxypropyl)aminonitrobenzene in 11.7 ml of triethylamine. 0.9 ml of acetic acid and 2.3 ml of formic acid are then run in dropwise. A high exothermicity is noted. The reaction mixture is heated under reflux for 3 hours. 10 ml of water are added. The reaction mixture diluted in this manner is filtered hot to remove the catalyst. The expected product precipitates from the filtrate as it cools. It is filtered off, washed with water and then dried under vacuum in the presence of phosphorus pentoxide. Recrystallized from ethyl acetate, it melts at 90° C.

reactant | 4- chloro-2-(γ-hydroxypropyl)amino-6-(γ-hydroxypropyl)aminonitrobenzene | 0.017 mole, 5.2 g | ClC1=CC(=C(C(=C1)NCCCO)[N+](=O)[O-])NCCCO | C12H18ClN3O4
reactant | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 2.3 ml | C(=O)O | CH2O2
reactant | water | 10 ml | O | H2O
solvent | triethylamine | 11.7 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium | 340 mg | [Pd] | Pd
product | 2-(γ-hydroxypropyl)amino-6-(γ-hydroxypropyl)aminonitrobenzene | OCCCNC1=C(C(=CC=C1)NCCCO)[N+](=O)[O-] | C12H19N3O4
